US04960766
To a suspension of 7β-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate trihydrochloride (syn isomer) (1.2 g) in anisole (1.2 ml) and methylene chloride (3.6 ml) was added dropwise trifluoroacetic acid (2.4 ml) under ice-cooling. After being stirred at ambient temperature for 3 hours, the mixture was added dropwise to isopropyl ether (200 ml). The resultant precipitate was collected by filtration. The precipitate was dissolved in water (30 ml) and the solution was adjusted to pH 2 with 5% aqueous sodium bicarbonate solution, and then subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20". The desired product was eluted with 5% aqueous isopropyl alcohol solution, and isopropyl alcohol was evaporated. The aqueous layer was lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer) (131.3 mg).

reactant | 7β-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate trihydrochloride | 1.2 g | Cl.Cl.Cl.NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)C)C(=O)[O-])C1=O)=NOCC(=O)OC(C)(C)C
reactant | trifluoroacetic acid | 2.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | isopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
solvent | anisole | 1.2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | methylene chloride | 3.6 ml | C(Cl)Cl | CH2Cl2
product | 7β-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 131.3 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)C)C(=O)[O-])C1=O)=NOCC(=O)O | C19H20N8O7S2
